US04829061
1-(4-Hydroxy-3,5-di-tert.-butylbenzoyl)-4-benzyloxycarbonylhomopiperazine
A mixture of 13.4 g (0.05 mol) of 3,5-di-tert.-butyl-4-hydroxybenzoyl chloride and 12.4 g (0.053 mol) of 1-benzyloxycarbonylhomopiperazine in 200 ml of acetonitrile is heated under reflux, with stirring, for 6 hour. The solvent is then removed by distillation under reduced pressure, the residue is partitioned between methylene chloride and dilute hydrochloric acid, and the organic phase is separated off and washed with saturated brine. After drying over sodium sulfate and removal of the solvent by distillation under reduced pressure, the crystalline residue is digested with hot diisopropyl ether, filtered off with suction, washed with diisopropyl ether and dried.

reactant | 3,5-di-tert.-butyl-4-hydroxybenzoyl chloride | 0.05 mol, 13.4 g | C(C)(C)(C)C=1C=C(C(=O)Cl)C=C(C1O)C(C)(C)C | C15H21ClO2
reactant | 1-benzyloxycarbonylhomopiperazine | 0.053 mol, 12.4 g | C(C1=CC=CC=C1)OC(=O)N1CCNCCC1 | C13H18N2O2
solvent | acetonitrile | 200 ml | C(C)#N | C2H3N
product | 1-(4-Hydroxy-3,5-di-tert.-butylbenzoyl)-4-benzyloxycarbonylhomopiperazine | OC1=C(C=C(C(=O)N2CCN(CCC2)C(=O)OCC2=CC=CC=C2)C=C1C(C)(C)C)C(C)(C)C | C28H38N2O4
